US06184231B2
4-(5-Chloro-2-hydroxyphenyl)-3-(hydroxymethyl)-6-(trifluoromethyl)-2(1H)-quinolinone (14, R3═CF3)
To a solution of [2-amino-5-(trifluoromethyl)phenyl](5-chloro-2-hydroxyphenyl)methanone (0.5 g, 1.58 mmol) and pyridine (0.25 mL, 3.17 mmol) in methylene chloride (15 mL), a solution of methyl malonyl chloride (0.34 mL, 3.17 mmol) in methylene chloride (10 mL) was added dropwise at 0° C. The reaction mixture was then allowed to warm to room temperature and stirred for 2 hours. The reaction mixture was acidified with 1N HCl and the organic layer was separated. It was then washed with saturated NaHCO3 twice, water, brine and dried (MgSO4). Evaporation of the solvent gave the title compound as a yellowish oil.

reactant | [2-amino-5-(trifluoromethyl)phenyl](5-chloro-2-hydroxyphenyl)methanone | 1.58 mmol, 0.5 g | NC1=C(C=C(C=C1)C(F)(F)F)C(=O)C1=C(C=CC(=C1)Cl)O | C14H9ClF3NO2
reactant | pyridine | 3.17 mmol, 0.25 mL | N1=CC=CC=C1 | C5H5N
reactant | methyl malonyl chloride | 3.17 mmol, 0.34 mL | CC(C(=O)Cl)C(=O)Cl | C4H4Cl2O2
reactant | HCl | 1N | Cl | ClH
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-Chloro-2-hydroxyphenyl)-3-(hydroxymethyl)-6-(trifluoromethyl)-2(1H)-quinolinone | ClC=1C=CC(=C(C1)C1=C(C(NC2=CC=C(C=C12)C(F)(F)F)=O)CO)O | C17H11ClF3NO3
